US07259183B2
To a solution of 1.49 g (8.05 mmol) of 4-tert-butyl-2-chloro-phenol and 1.22 g (12.1 mmol) of triethyl amine in 15 ml DCM was added under nitrogen at 0° C. slowly a solution of 2.90 g (10.1 mmol) of trifluoro-methansulfonic acid anhydride in 1.7 ml DCM. The dark red solution was stirred for 1 h at 0° C. and at rt over night. The reaction mixture was diluted with DCM, washed with water, once with 1N aqueous HCl solution and once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated to yield 2.0 g (78%) of trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester as a light yellow oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.75 (s, 1H), 7.55 (s, 2H), 1.30 (s, 9H).

reactant | 4-tert-butyl-2-chloro-phenol | 8.05 mmol, 1.49 g | C(C)(C)(C)C1=CC(=C(C=C1)O)Cl | C10H13ClO
reactant | triethyl amine | 12.1 mmol, 1.22 g | C(C)N(CC)CC | C6H15N
reactant | trifluoro-methansulfonic acid anhydride | 10.1 mmol, 2.90 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.7 ml | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester | 2.0 g, 78% | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl | C11H12ClF3O3S
